US20010027196A1
4-Furan-2-yl-5-iodo-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidin-2-yl-amine
From 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine, 2-mercaptoethylpyridine and DBU in dioxane. ES-MS m/e (%): 425 (M+H+, 100).

reactant | 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1I)S(=O)C)N | C9H8IN3O2S
reactant | 2-mercaptoethylpyridine | SCCC1=NC=CC=C1 | C7H9NS
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-Furan-2-yl-5-iodo-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1I)SCCC1=NC=CC=C1)N | C15H13IN4OS
